US09029536B2
A) 2-(6-Chlorohex-1-ynyl)pyridin-3-amine
A mixture of 2-chloropyridin-3-amine (2571 mg), K2CO3 (8292 mg), Pd(OAc)2 (180 mg), dppb (682 mg) and CH3CN (25 mL) was stirred at room temperature under Ar atmosphere for 30 min. 6-Chlorohex-1-yne (2565 mg) was added to the mixture, and the mixture was stirred at 80° C. under Ar atmosphere for 24 h. The mixture was filtrated and insoluble material was washed with CH3CN. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (600 mg).

reactant | 2-chloropyridin-3-amine | 2571 mg | ClC1=NC=CC=C1N | C5H5ClN2
reactant | K2CO3 | 8292 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dppb | 682 mg | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C28H28P2
reactant | 6-Chlorohex-1-yne | 2565 mg | ClCCCCC#C | C6H9Cl
catalyst | Pd(OAc)2 | 180 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 2-(6-Chlorohex-1-ynyl)pyridin-3-amine | 600 mg | ClCCCCC#CC1=NC=CC=C1N | C11H13ClN2
